US09085555B2
B. 2-(3-Carbamoyl-1H-pyrazolo[3,4-c]pyridazin-1-yl)acetic acid
To a solution of methyl 2-(3-iodo-1H-pyrazolo[3,4-c]pyridazin-1-yl)acetate (675 mg, 2.12 mmol) in DMF (7.5 mL) and water (1.5 mL) was added Zn(CN)2 (274 mg, 2.33 mmol), Pd2 dba3 (194 mg, 0.21 mmol) and PdCl2(dppf).CH2Cl2 adduct (173 mg, 0.21 mmol). The reaction mixture was stirred at 100° C. for 16 h. The resulting suspension was filtered and the filtrate was evaporated under vacuum. The residue was suspended in CH3CN/MeOH 1:1, the solid was filtered off and the filtrate was purified by preparative HPLC (Macherey Nagel, VP250/40, C18 Nucleosil 100-10, flow: 40 mL/min, eluent: 5-100% CH3CN/H2O/20 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA) to give the title compound after lyophilisation. MS (LC/MS): 222.1 [M+H]+; tR (HPLC conditions c): 1.34 min.

reactant | methyl 2-(3-iodo-1H-pyrazolo[3,4-c]pyridazin-1-yl)acetate | 2.12 mmol, 675 mg | IC1=NN(C2=NN=CC=C21)CC(=O)OC | C8H7IN4O2
reactant | CH2Cl2 | 0.21 mmol, 173 mg | C(Cl)Cl | CH2Cl2
reactant | DMF | 7.5 mL | CN(C)C=O | C3H7NO
solvent | water | 1.5 mL | O | H2O
catalyst | Zn(CN)2 | 2.33 mmol, 274 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd2 dba3 | 0.21 mmol, 194 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(3-Carbamoyl-1H-pyrazolo[3,4-c]pyridazin-1-yl)acetic acid | C(N)(=O)C1=NN(C2=NN=CC=C21)CC(=O)O | C8H7N5O3
